US04608374
11-[(1-Cyano)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
Milled K2CO3 (25 g, 0.18 mole) was added to a solution of cyanogen bromide (10.6 g, 0.1 mole) in 100 ml chloroform, and the mixture was heated to reflux and a solution of 11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (24 g, 0.085 mole) in 100 ml chloroform was added thereto over a period of one hour.

reactant | K2CO3 | 0.18 mole, 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 0.1 mole, 10.6 g | N#CBr | CBrN
reactant | 11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.085 mole, 24 g | CN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C18H22N2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 11-[(1-Cyano)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | C(#N)N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C18H19N3O
